US07547696B2
e.) 2-Amino-3-cyano-4-chloro-6-(4-methylpiperazin-1-yl)quinoline
The mixture of 2 g of 2-amino-3-cyano-4-hydroxy-6-(4-methylpiperazino)quinoline and 4 mL of phosphoryl chloride is stirred at 120° C. for 4 hours. The cooled reaction mixture is poured onto 40 g of ice, the pH of the mixture is adjusted to 8 with 10% NaOH solution, and the precipitated material is filtered off. After drying 1.5 g of the title compound is obtained, m.p.: 189° C.

reactant | 2-amino-3-cyano-4-hydroxy-6-(4-methylpiperazino)quinoline | 2 g | NC1=NC2=CC=C(C=C2C(=C1C#N)O)N1CCN(CC1)C | C15H17N5O
reactant | phosphoryl chloride | 4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | [OH-].[Na+]
product | 2-Amino-3-cyano-4-chloro-6-(4-methylpiperazin-1-yl)quinoline | NC1=NC2=CC=C(C=C2C(=C1C#N)Cl)N1CCN(CC1)C | C15H16ClN5
